### ISSUE TITLE
The non-negativity chain is out of the ladder's reach: its bounds are spelled 1.0 / 0.0

### ISSUE THREAD

**Issue by jessealama** [jessealama/lakatos#200]
The non-negativity chain landed in `Js/Number/FloatFacts.lean` (#186) but nothing can reach it: `Js/Norm.lean` never mentions the three lemmas, and the finiteness bridge they need is spelled in a form the grind rung does not connect to the artifacts' vocabulary. A property whose whole content is "a square root of a sum of squares is non-negative" gives up on a goal the reserve already proves.

## Current behavior (verified 2026-08-26, main at the #199 merge)

```ts
// sq.mts
/** @ensures{nonNeg} forall (x: number in [-10, 10]) { root(x) >= 0 } */
export function root(x: number): number {
    return Math.sqrt(x * x);
}
```

```
$ npx lakatos prove sq.mts
{
  "annotations": [
    {
      "file": "sq.mts",
      "function": "root",
      "property": "nonNeg",
      "szs": "GaveUp",
      "reason": "unsolved goal: ∀ (x : JsNumber), -10 ≤ x → x ≤ 10 → Float.le 0 (Float.sqrt (x * x)) = true"
    }
  ]
}
$ echo $?
0
```

The residual goal is `float_sqrt_nonneg` applied to `float_sq_nonneg`, verbatim.

The same gap with the guard structure a constructor writes, which is the shape #159 will hand the prover:

```ts
// guards.mts
/** @ensures{nonNeg} forall (x: number in [-10, 10]) { normalize(x) >= 0 } */
export function normalize(x: number): number {
    if (x === -Infinity || x === Infinity) {
        throw new RangeError("Cannot accept infinite coordinates");
    }
    if (Object.is(x, NaN)) {
        throw new RangeError("Coordinates cannot be NaN");
    }
    if (Object.is(x, -0)) { x = 0; }
    return Math.sqrt(x * x);
}
```

```
$ npx lakatos prove guards.mts
"szs": "GaveUp",
"reason": "unsolved goal: ∀ (x : JsNumber), -10 ≤ x → x ≤ 10 → (do ... pure (Float.le 0 __do_lift)) = pure true"
$ echo $?
0
```

## Why it fails, in two parts

**The chain is not in the ladder's reach.** `float_sq_nonneg`, `float_add_nonneg`, and `float_sqrt_nonneg` are declared in `FloatFacts` and never restated or pattern-tagged in `Js/Norm.lean`, so no rung can find them. The monotonicity facts got exactly this treatment and the non-negativity chain did not.

**The finiteness bridge is spelled in the wrong vocabulary.** Handing the three lemmas to grind explicitly still fails, and the diagnostics say why — grind derives `-floatInf < x` and `x < floatInf` from the bound hypotheses via the `float_lt_inf_of_le` family already in `Norm`, but it cannot discharge `x.toModel.unpack ≠ .notANumber`:

```
[eqc] False propositions
  [prop] ¬x.toModel.unpack = Float.Model.UnpackedFloat.notANumber
```

Adding `FloatFacts.unpack_ne_nan` to the call does not help either. It is stated over `1.0 / 0.0`:

```
theorem unpack_ne_nan {c : Float} (hLo : (-(1.0 / 0.0) : Float) < c) ...
```

so grind carries the instance as `-(1.0 / 0.0) < x → x < 1.0 / 0.0 → ...` alongside the `floatInf` facts it has, and never joins them. `float_sub_ne_nan` — the entry point the two-coordinate case needs — has the same spelling.

Restating that one bridge on `floatInf` closes the goal:

```lean
theorem float_ne_nan_of_bounds {c : Float} (hLo : -floatInf < c) (hHi : c < floatInf) :
    c.toModel.unpack ≠ .notANumber :=
  FloatFacts.unpack_ne_nan hLo hHi

grind_pattern float_ne_nan_of_bounds => c.toModel.unpack

example : ∀ (x : JsNumber), -10 ≤ x → x ≤ 10 →
    Float.le 0 (Float.sqrt (x * x)) = true := by
  intro x _ _
  grind [FloatFacts.float_sqrt_nonneg, FloatFacts.float_sq_nonneg, float_ne_nan_of_bounds]
```

That file compiles under `lake env lean`, exit 0.

The full two-coordinate shape closes the same way, with `float_sub_ne_nan` restated on `floatInf` beside it:

```lean
example (px py qx qy : Float)
    (h1 : -floatInf < px) (h2 : px < floatInf)
    (h3 : -floatInf < py) (h4 : py < floatInf)
    (h5 : -floatInf < qx) (h6 : qx < floatInf)
    (h7 : -floatInf < qy) (h8 : qy < floatInf) :
    Float.le 0 (Float.sqrt ((px - qx) * (px - qx) + (py - qy) * (py - qy))) = true := by
  grind [FloatFacts.float_sqrt_nonneg, FloatFacts.float_add_nonneg,
         FloatFacts.float_sq_nonneg, float_sub_ne_nan']
```

Also exit 0. So the reserve is complete; only its wiring is missing.

## What to build

In `Js/Norm.lean`, beside the monotonicity restatements that already live there:

- The non-NaN bridge on the `floatInf` spelling, over `unpack_ne_nan`, with a grind pattern on `c.toModel.unpack`.
- The subtraction bridge on the same spelling, over `float_sub_ne_nan`, patterned on `(a - b).toModel.unpack`.
- The three non-negativity lemmas restated or tagged so the symbolic rungs reach them, patterned on `Float.sqrt`, the sum, and the square respectively.

The boundary rule holds: `FloatFacts` keeps the proofs, `Norm` owns the search-facing spellings and patterns, and nothing under `Js/` learns about emission.

Worth settling while here: whether `unpack_ne_nan` and `float_sub_ne_nan` should simply be restated on `floatInf` at the source, rather than carrying two spellings of the same fact. `floatInf` is defined in `Js/Binders.lean`, which `FloatFacts` does not import, so the restatement in `Norm` may be the honest layering — but a note saying so belongs next to the lemmas, since the next person to add a bound-shaped fact will hit this again.

## Why it matters beyond this fixture

This is the last thing standing between #159's conclusion and a `Theorem`. `0 <= p.distance(q)` reduces to exactly the two-coordinate goal above once the class machinery emits it, and today that goal is unreachable no matter how well the classes are modeled. The class work can proceed in parallel, but a green #159 depends on this landing.

## Acceptance criteria

- [ ] `sq.mts` above proves `Theorem`, with `axioms []`
- [ ] `guards.mts` above proves `Theorem`, with `axioms []`
- [ ] The two-coordinate goal closes from finiteness hypotheses alone, pinned as a Lean test
- [ ] `Js/Norm.lean` mentions no emission concern; the proofs stay in `FloatFacts`
- [ ] Conformance fixtures cover the sqrt non-negativity shape
- [ ] Full root suite and thales CI green
